US06573399B1
Under nitrogen gas, diisopropylamine (38.8 g, 383.4 mmol) was added to n-butylmagnesiumchloride (1.8 mol/kg, 178 g, 319.5 mmol) over 30 minutes at 40° C. and the mixture was further stirred for 2 hours at the same temperature to prepare a white slurry (liquor A). Separately, under nitrogen gas was in another vessel, a solution was prepared from methyl (S)-2-benzyloxycarbonylamino-3-phenylpropanoate (20.0 g, 63.9 mmol), dibromomethane (22.22 g, 127.8 mmol) and THF (40 mL) (liquor B). To this liquor B was added said liquor A over 2 hours at an internal temperature of about 5° C., and the reaction was further conducted at 5° C. for 2 hours. This reaction mixture was poured in a mixture of concentrated hydrochloric acid (73.3 g), water (100 g) and ethyl acetate (50 mL) over 1 hour for hydrolysis. After phase separation, the organic layer was washed with 2 portions of water (100 mL each). The organic layer was concentrated under reduced pressure to recover 34.38 g of black oil. This oil was purified by silica gel column chromatography to recover 22.34 g of yellow crude crystals. This crystal crop was recrystallized from ethyl acetate/hexane to provide white crystals of benzyl (S)-(1-benzyl-3,3-dibromo-2-oxopropyl)carbamate (11.99 g, 88.0 area %, yield 57%).

reactant | diisopropylamine | 383.4 mmol, 38.8 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butylmagnesiumchloride | 319.5 mmol, 178 g | C(CCC)[Mg]Cl
reactant | methyl (S)-2-benzyloxycarbonylamino-3-phenylpropanoate | 63.9 mmol, 20.0 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC=CC=C1 | C18H19NO4
reactant | dibromomethane | 127.8 mmol, 22.22 g | BrCBr | CH2Br2
reactant | hydrochloric acid | 73.3 g | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 g | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | benzyl (S)-(1-benzyl-3,3-dibromo-2-oxopropyl)carbamate | 11.99 g, yield 57% | C(C1=CC=CC=C1)[C@@H](C(C(Br)Br)=O)NC(OCC1=CC=CC=C1)=O | C18H17Br2NO3
